US05955464
Using an analogous procedure to that described in Example 4 except that the reaction product was basified by treatment with a saturated aqueous sodium bicarbonate solution rather than with a concentrated aqueous ammonium hydroxide solution, 4-chloro-6-(1-imidazolyl)quinazoline was reacted with 4-amino-2-chlorobenzophenone to give 4-(4-benzoyl-3-chloroanilino)-6-(1-imidazolyl)-quinazoline in 11% yield, m.p. 220-223° C.; NMR Spectrum: (CD3SOCD3) 7.2 (s, 1H), 7.5-7.8 (m, 6H), 7.9 (s, 1H), 8.0 (d, 1H), (m, 1H), 8.25 (m, 1H), 8.3 (d, 1H), 8.4 (s, 1H), 8.78 (s, 1H), 8.8 (d, 1H), 10.0 (broad s, 1H);

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | 4-chloro-6-(1-imidazolyl)quinazoline | ClC1=NC=NC2=CC=C(C=C12)N1C=NC=C1 | C11H7ClN4
reactant | 4-amino-2-chlorobenzophenone | NC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1)Cl | C13H10ClNO
product | 4-(4-benzoyl-3-chloroanilino)-6-(1-imidazolyl)-quinazoline | 11% yield | C(C1=CC=CC=C1)(=O)C1=C(C=C(NC2=NC=NC3=CC=C(C=C23)N2C=NC=C2)C=C1)Cl | C24H16ClN5O
